US07812022B2
Step D: 4-[2-(3-Aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(1-pyrrolidinyl)ethyl]oxy}phenyl)-2-pyrimidinamine
N-(3-{3-[2-({3-[(2-Chloroethyl)oxy]phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2,2,2-trifluoroacetamide (0.500 g, 0.850 mmol) was dissolved in pyrrolidine and heated to 50° C. for 18 h. The reaction was cooled upon completion and absorbed directly onto silica gel. The crude product was purified via column chromatography using a 0-20% gradient of EtOAC/MeOH w/NH4OH to afford the desired product (310 mg, 74% yield) as a yellow solid. ES-LCMS m/z 492 (M+H).

reactant | N-(3-{3-[2-({3-[(2-Chloroethyl)oxy]phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2,2,2-trifluoroacetamide | 0.850 mmol, 0.500 g | ClCCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C27H20ClF3N6O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-[2-(3-Aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(1-pyrrolidinyl)ethyl]oxy}phenyl)-2-pyrimidinamine | 310 mg, 74% yield | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)OCCN1CCCC1 | C29H29N7O
